US05185347
5-Methoxy-2-[2-(2,2,6,6-tetramethylpiperidin-1-yl)ethylthio]benzimidazole
In 15 ml of N,N-dimethylformamide was dissolved 810 mg of 2-mercapto-5-methoxybenzimidazole, and 933 mg of potassium carbonate and 1.62 g of 1-(2-chloroethyl)-2,2,6,6-tetramethylpiperidine hydrochloride were added to the solution, followed by stirring at 65° to 70° C. for 4.5 hours. After completion of the reaction, 200 ml of ethyl acetate and 70 ml of water were added to the reaction mixture, and the thus extracted ethyl acetate layer was washed successively with a diluted sodium hydrogencarbonate aqueous solution and a diluted sodium chloride aqueous solution and dried over anhydrous magnesium sulfate. The extracting solution was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (chloroform:methanol=50:1 to 25:1 by volume) to obtain 1.25 g (80%) of the titled compound.

reactant | 2-mercapto-5-methoxybenzimidazole | 810 mg | SC=1NC2=C(N1)C=CC(=C2)OC | C8H8N2OS
reactant | potassium carbonate | 933 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(2-chloroethyl)-2,2,6,6-tetramethylpiperidine hydrochloride | 1.62 g | Cl.ClCCN1C(CCCC1(C)C)(C)C
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 70 ml | O | H2O
product | 5-Methoxy-2-[2-(2,2,6,6-tetramethylpiperidin-1-yl)ethylthio]benzimidazole | 1.25 g, 80% | COC1=CC2=C(N=C(N2)SCCN2C(CCCC2(C)C)(C)C)C=C1 | C19H29N3OS
